// Generated for: spectre
// Generated on: May 11 14:39:45 2024
// Design library name: LDO_TCASII_Debashis
// Design cell name: tb_Trans_0m
// Design view name: schematic
simulator lang=spectre
global 0
parameters CC RC
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m_2/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=pre_simu
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m_2/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=tt_lib

// Library name: LDO_TCASII_Debashis
// Cell name: LDO_Core
// View name: schematic
subckt LDO_Core VFB VIN VOUT VREF VSS
    M30 (net22 net23 VOUT VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M60 (net38 net38 VSS VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M64 (net30 net38 VSS VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M6 (net23 VB2 net30 VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M5 (net15 VB2 net35 VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M24 (net30 VB1 VSS VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M23 (net35 VB1 VSS VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M63 (net35 net38 VSS VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M62 (net10 net38 VSS VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M61 (net6 net38 VSS VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M21 (net6 VB1 VSS VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M22 (net10 VB1 VSS VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M0 (VIN net23 VOUT VSS) nch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M11 (net22 net22 VPUMP VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M12 (net38 net22 VPUMP VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M10 (net45 net15 VPUMP VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M9 (net44 net15 VPUMP VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M7 (net15 VB3 net44 VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M8 (net23 VB3 net45 VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M42 (net10 net10 VREF VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M41 (net6 net6 VFB VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M2 (net35 net10 VFB VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M1 (net30 net6 VREF VIN) pch_mac l=180n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    C0 (net43 VSS) capacitor c=CC
    R0 (net23 net43) resistor r=RC
    E0 (VPUMP VSS VIN VSS) vcvs gain=2.0
ends LDO_Core
// End of subcircuit definition.

// Library name: LDO_TCASII_Debashis
// Cell name: tb_Trans_0m
// View name: schematic
V2 (VIN 0) vsource dc=1.8 type=dc
V1 (VREF 0) vsource dc=1.6 type=dc
V0 (VSS 0) vsource dc=0 type=dc
I0 (VOUT VIN VOUT VREF VSS) LDO_Core
C0 (VOUT VSS) capacitor c=50p
I1 (VOUT VSS) isource dc=20m type=pulse val0=0 val1=9m period=20u delay=5u \
        rise=350.00p fall=350.00p width=5u
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=15u errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save I1:sink 
saveOptions options save=allpub
